### PR TITLE
[Merged by Bors] - feat(LinearEquiv): `e ∘ₛₗ e.symm ∘ₛₗ f = f`

### PR DESCRIPTION
**Pull request by YaelDillies**
From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — COMMENTED** [review]
Could you add the other three permuted versions, and perhaps also the trans version?

File: Mathlib/Algebra/Module/Equiv/Defs.lean [hunk 1]
```diff
@@ -412,6 +412,10 @@ theorem eq_comp_toLinearMap_iff (f g : M₂ →ₛₗ[σ₂₃] M₃) :
   refine ⟨fun h => ?_, fun a ↦ congrFun (congrArg LinearMap.comp a) e₁₂.toLinearMap⟩
   rw [(eq_comp_toLinearMap_symm g (f.comp e₁₂.toLinearMap)).mpr h.symm, eq_comp_toLinearMap_symm]
 
+lemma comp_symm_cancel (e : M₁ ≃ₛₗ[σ₁₂] M₂) (f : M₃ →ₛₗ[σ₃₂] M₂) :
+    e.toLinearMap ∘ₛₗ e.symm.toLinearMap ∘ₛₗ f = f :=
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Module/Equiv/Defs.lean:416]: Right associated

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/Module/Equiv/Defs.lean:416]: So `x . (y . z)`?

Relatedly, we don't have an associativity lemma for trans!

File: Mathlib/Algebra/Module/Equiv/Defs.lean [hunk 2]
```diff
@@ -412,6 +418,30 @@ theorem eq_comp_toLinearMap_iff (f g : M₂ →ₛₗ[σ₂₃] M₃) :
...
   rw [(eq_comp_toLinearMap_symm g (f.comp e₁₂.toLinearMap)).mpr h.symm, eq_comp_toLinearMap_symm]
 
+lemma comp_symm_cancel_left (e : M₁ ≃ₛₗ[σ₁₂] M₂) (f : M₃ →ₛₗ[σ₃₂] M₂) :
+    e.toLinearMap ∘ₛₗ e.symm.toLinearMap ∘ₛₗ f = f := by ext; simp
+
+lemma symm_comp_cancel_left (e : M₁ ≃ₛₗ[σ₁₂] M₂) (f : M₃ →ₛₗ[σ₃₁] M₁) :
+    e.symm.toLinearMap ∘ₛₗ e.toLinearMap ∘ₛₗ f = f := by ext; simp
+
+lemma comp_symm_cancel_right (e : M₁ ≃ₛₗ[σ₁₂] M₂) (f : M₂ →ₛₗ[σ₂₃] M₃) :
+    f ∘ₛₗ e.toLinearMap ∘ₛₗ e.symm.toLinearMap = f := by ext; simp
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Equiv/Defs.lean:428]:
```suggestion
    (f ∘ₛₗ e.toLinearMap) ∘ₛₗ e.symm.toLinearMap = f := by ext; simp
```
I think, otherwise this lemma isn't needed. Same below.

File: Mathlib/Algebra/Module/Equiv/Defs.lean [hunk 3]
```diff
@@ -277,14 +275,19 @@ theorem coe_toEquiv_symm : e.toEquiv.symm = e.symm :=
...
+variable {σ₂₃ : R₂ →+* R₃} {σ₃₂ : R₃ →+* R₂}
+variable {σ₂₄ : R₂ →+* R₄} {σ₄₂ : R₄ →+* R₂} [RingHomInvPair σ₂₄ σ₄₂] [RingHomInvPair σ₄₂ σ₂₄]
+variable {σ₃₄ : R₃ →+* R₄} {σ₄₃ : R₄ →+* R₃} [RingHomInvPair σ₃₄ σ₄₃] [RingHomInvPair σ₄₃ σ₃₄]
+variable {re₁₂ : RingHomInvPair σ₁₂ σ₂₁} {re₂₁ : RingHomInvPair σ₂₁ σ₁₂}
+variable {re₂₃ : RingHomInvPair σ₂₃ σ₃₂} {re₃₂ : RingHomInvPair σ₃₂ σ₂₃}
+variable [RingHomCompTriple σ₁₂ σ₂₃ σ₁₃] [RingHomCompTriple σ₃₂ σ₂₁ σ₃₁]
+variable [RingHomCompTriple σ₁₂ σ₂₄ σ₁₄] [RingHomCompTriple σ₄₂ σ₂₁ σ₄₁]
+variable [RingHomCompTriple σ₁₃ σ₃₄ σ₁₄] [RingHomCompTriple σ₄₃ σ₃₁ σ₄₁]
+variable [RingHomCompTriple σ₂₃ σ₃₄ σ₂₄] [RingHomCompTriple σ₄₃ σ₃₂ σ₄₂]
 variable (e₁₂ : M₁ ≃ₛₗ[σ₁₂] M₂) (e₂₃ : M₂ ≃ₛₗ[σ₂₃] M₃)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Equiv/Defs.lean:291]: How horrible!

Comment (YaelDillies) [reply Mathlib/Algebra/Module/Equiv/Defs.lean:291]: Tell that to the semilinear algebraists 😆

File: Mathlib/Algebra/Module/Equiv/Defs.lean [hunk 4]
```diff
@@ -253,16 +251,16 @@ def symm (e : M ≃ₛₗ[σ] M₂) : M₂ ≃ₛₗ[σ'] M :=
     map_smul' := fun r x ↦ by rw [map_smulₛₗ] }
 
 /-- See Note [custom simps projection] -/
-def Simps.apply {R : Type*} {S : Type*} [Semiring R] [Semiring S]
+def Simps.apply {R S : Type*} [Semiring R] [Semiring S]
     {σ : R →+* S} {σ' : S →+* R} [RingHomInvPair σ σ'] [RingHomInvPair σ' σ]
-    {M : Type*} {M₂ : Type*} [AddCommMonoid M] [AddCommMonoid M₂] [Module R M] [Module S M₂]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Equiv/Defs.lean:258]: Did anything change here?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
